US06358985B1
Step A: Preparation of 3-(3-methoxypheny)-1-phenylpropanol
To a solution of benzaldehyde (920 μl, 9 mmol) in dry THF (20 mL) was added slowly a solution of 2-(3-methoxyphenyl) ethylmagnesium bromide prepared from 2-(3-methoxyphenyl) ethyl bromide (2.1 g. 9.77 mmol) and magnesium (300 mg, 12 mmol). The mixture was stirred at room temperature for ½ hour then quenched with saturated NH4Cl. The mixture was then extracted into EtOAc, washed with H2O, dried (Na2SO4), filtered and concentrated in vacuo, then purified by silica gel chromatography (30% EtOAc/Hexane) to provide the desired product as a colorless viscous oil.

reactant | benzaldehyde | 9 mmol, 920 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(3-methoxyphenyl) ethylmagnesium bromide | COC=1C=C(C=CC1)CC[Mg]Br
reactant | 2-(3-methoxyphenyl) ethyl bromide | 9.77 mmol, 2.1 g | COC=1C=C(C=CC1)CCBr | C9H11BrO
reactant | magnesium | 12 mmol, 300 mg | [Mg] | Mg
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-methoxypheny)-1-phenylpropanol | COC=1C=C(C=CC1)CCC(O)C1=CC=CC=C1 | C16H18O2
